US04256640
EXAMPLE 5: 4-Benzylaminomethyl-2,3,4,5-tetrahydrothiopyrano[2,3-b]indole
To a solution of 4-aminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole (150 mg) in methanol (5 ml) are added a solution of benzaldehyde (76 mg) in methanol (1.5 ml) and sodium cyanoborohydride (132 mg). The mixture is adjusted to pH 7 with a solution of hydrochloride in methanol, stirred at room temperature for 1 hour and evaporated to remove the solvent. The residue is dissolved in ether, washed with a 10% aqueous solution of sodium hydroxide and a saline solution, dried and evaporated to give the title compound (210 mg).

reactant | 4-aminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 150 mg | NCC1CCSC=2NC3=CC=CC=C3C21 | C12H14N2S
reactant | benzaldehyde | 76 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloride | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 1.5 ml | CO | CH4O
solvent | sodium cyanoborohydride | 132 mg | C(#N)[BH3-].[Na+]
product | 4-Benzylaminomethyl-2,3,4,5-tetrahydrothiopyrano[2,3-b]indole | 210 mg | C(C1=CC=CC=C1)NCC1CCSC2=NC3=CC=CCC3=C21 | C19H20N2S
